US06399731B2
Methyl diphenylphosphinite (4.92 g, 22.7 mmol) was dissolved in chloroform (2 ml) in a 15 ml round bottom flask under inert atmosphere (constant flow of dry argon). The solution was then cooled to −78° C. by immersion of the reaction vessel into a dry ice/acetone bath. The methyl diphenylphosphinite was observed to freeze out of solution. To the reaction vessel at reduced temperature, a solution of chloroacetone (1.8 ml, 22.5 mmol) in chloroform (1 ml) was added. The reaction vessel was allowed to warm to room temperature over three hours with constant stirring and argon flow. As the methyl diphenylphosphinite melted into the solution, the reaction proceeded. After the completion of the three hour reaction time, the crude product was obtained by removal of the chloroform. Recrystallization from hot hexane followed by drying for 12 hours in a vacuum oven (60° C. 6 mm Hg) yielded 1-methylvinyl diphenylphosphinate (4.62 g, 79.6% overall). The melting point of the recrystallized product was determined to be from about 84.1 to 85.3° C. The proton NMR of the product in CDCl3 showed the expected resonances (relative to TMS at 0.0 ppm) at 1.01 ppm correlating to the three methyl protons, at 4.29 ppm and 4.64 ppm for the two vinyl protons, and at 7.3-7.8 ppm for the ten aromatic protons. The phosphorus NMR of the product in CDCl3 showed a simple resonance relative to 85% H3PO4 at 20.00 ppm.

reactant | Methyl diphenylphosphinite | 22.7 mmol, 4.92 g | C1(=CC=CC=C1)P(OC)C1=CC=CC=C1 | C13H13OP
reactant | chloroacetone | 22.5 mmol, 1.8 ml | ClCC(C)=O | C3H5ClO
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-methylvinyl diphenylphosphinate | 4.62 g, 79.6% | C1(=CC=CC=C1)P(OC(=C)C)(=O)C1=CC=CC=C1 | C15H15O2P
